US07256177B2
To a stirred solution of 1-(1-benzyl-1H-imidazol-2-ylmethyl)-4-pent-2-enyl-pyrrolidine-2-carboxylic acid benzyl ester (257.2 mg, 0.6 mmol, 1 equiv) in a 4:1 THF/H2O (8 mL), at room temperature, was added lithium hydroxide monohydrate (250 mg, 5.96 mmol, 10 equiv). The resulting reaction mixture was stirred at room temperature overnight, and evaporated to dryness. The residue obtained was dissolved in water (10 mL), and the pH of the resulting solution was adjusted to between 3 and 4, and extracted with EtOAc (3×100 mL). The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and evaporated to dryness, affording the acid product 1-(1-Benzyl-1H-imidazol-2-ylmethyl)-4-pent-2-enyl-pyrrolidine-2-carboxylic acid (202 mg, 98%): Rf=0.4 (7:2:1 CH2Cl2/hexanes/MeOH), KMnO4 visualization stain; MS (ESPOS): 355 [M+H]+; MS (ESNEG): 352 [M−H]−.

reactant | 1-(1-benzyl-1H-imidazol-2-ylmethyl)-4-pent-2-enyl-pyrrolidine-2-carboxylic acid benzyl ester | 0.6 mmol, 257.2 mg, 1 equiv | C(C1=CC=CC=C1)OC(=O)C1N(CC(C1)CC=CCC)CC=1N(C=CN1)CC1=CC=CC=C1 | C28H33N3O2
reactant | THF H2O | 8 mL | C1CCOC1.O
reactant | lithium hydroxide monohydrate | 5.96 mmol, 250 mg, 10 equiv | O.[OH-].[Li+]
solvent | water | 10 mL | O | H2O
product | 1-(1-Benzyl-1H-imidazol-2-ylmethyl)-4-pent-2-enyl-pyrrolidine-2-carboxylic acid | 202 mg, 98% | C(C1=CC=CC=C1)N1C(=NC=C1)CN1C(CC(C1)CC=CCC)C(=O)O | C21H27N3O2
